US08278442B2
Preparation 91: 2-(4-Formylnaphthalen-1-yloxy)isonicotinamide
To a solution of 4-hydroxy-1-naphthaldehyde (500 mg, 2.9 mmol) and 2-chloro-4-cyanopyridine (402 mg, 2.9 mmol) in DMF (4 mL) was added K2CO3 (2.01 g, 14.52 mmol). The reaction was heated for 1 h at 70° C. in a microwave. The mixture was diluted with EtOAc (100 mL), washed with water (2×50 mL) and the aqueous phase extracted with EtOAc (2×50 mL). The organic phase was washed with water (100 mL), 1M NaOH (3×60 mL), brine (50 mL) and dried (MgSO4). Solvent was removed in vacuo and the residue purified by column chromatography (SiO2, NH4OH:MeOH:DCM, 0.2:2:98) to give the title compound: RT=3.02 min; m/z (ES+)=293.1 [M+H]+.

reactant | 4-hydroxy-1-naphthaldehyde | 2.9 mmol, 500 mg | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | 2-chloro-4-cyanopyridine | 2.9 mmol, 402 mg | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | K2CO3 | 14.52 mmol, 2.01 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Formylnaphthalen-1-yloxy)isonicotinamide | C(=O)C1=CC=C(C2=CC=CC=C12)OC=1C=C(C(=O)N)C=CN1 | C17H12N2O3
